US03950339
[4-(p-Chlorobenzylamino)-6-Propyl-2-Pyrimidinylthio]Acetonitrile
A stirred suspension of 13.62 g. (0.06 mole) of (4-chloro-6-propyl-2-pyrimidinylthio)acetonitrile, 8.40 g. (0.06 mole) of p-chlorobenzylamine and 6.36 g. (0.06 mole) of sodium carbonate was heated under reflux in 150 ml of ethanol for five hours. The mixture was filtered and the filtrate was evaporated in a rotary evaportor. The residue was dissolved in ether (150 ml) and extracted with 150 ml of 10% concentrated hydrochloric acid solution. The ether layer was dried over magnesium sulfate, filtered and evaporated in a rotary evaporator. This residue was dissolved in benzene, diluted with a little heptane and was cooled in ice. The precipitate which formed was collected and recrystallized a second time from a benzene-heptane mixture to give 3.6 g. of product, m.p. 68°-70°.

reactant | (4-chloro-6-propyl-2-pyrimidinylthio)acetonitrile | 0.06 mole | ClC1=NC(=NC(=C1)CCC)SCC#N | C9H10ClN3S
reactant | p-chlorobenzylamine | 0.06 mole | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | 0.06 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | [4-(p-Chlorobenzylamino)-6-Propyl-2-Pyrimidinylthio]Acetonitrile | ClC1=CC=C(CNC2=NC(=NC(=C2)CCC)SCC#N)C=C1 | C16H17ClN4S
